US08420640B2
A solution of N-(5-bromo-2-nitrophenyl)benzenamine (250 mg, 0.85 mmol) and piperazine (366 mg, 4.26 mmol) in NMP (1 mL) was heated to 110° C. for 16 h. The solution whole cooled to room temperature to which was slowly added H2O (5 mL). The resulting yellow precipitate was filtered, washed with 10 mL of water, dried (high vacuum, 14 h) to furnish 2-nitro-N-phenyl-5-(piperazin-1-yl)aniline (165 mg, 0.55 mmol), 65% yield. 1H NMR (500 MHz, CDCl3) d (ppm) 9.89 (s, 1H), 8.15 (d, J=9.0 Hz, 1H), 7.45 (m, 2H), 7.34 (d, J=7.0 Hz, 2H), 7.25 (t, J=7.0 Hz, 1H), 6.43 (d, J=2.5 Hz, 1H), 6.35 (dd, 2.5 Hz, 9.75 Hz, 1H), 3.29 (m, 4H), 2.92 (m, 4H).+ESI HRMS (calcd for C16H19N4O2, M+1) 299.1508, found 391.150

reactant | N-(5-bromo-2-nitrophenyl)benzenamine | 0.85 mmol, 250 mg | BrC=1C=CC(=C(C1)NC1=CC=CC=C1)[N+](=O)[O-] | C12H9BrN2O2
reactant | piperazine | 4.26 mmol, 366 mg | N1CCNCC1 | C4H10N2
reactant | H2O | 5 mL | O | H2O
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | 2-nitro-N-phenyl-5-(piperazin-1-yl)aniline | 0.55 mmol, 165 mg, 65% yield | [N+](=O)([O-])C1=C(NC2=CC=CC=C2)C=C(C=C1)N1CCNCC1 | C16H18N4O2
